US05639752
(R)-3-(N-Benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-dibenzylamino-1H-indole
To a stirred mixture of (R)-N-carbobenzyloxyproline (3.59 g, 14.41 mmol) and N,N-dimethylformamide (0.1 mL) in methylene chloride (45 mL) was added dropwise oxalyl chloride (1.87 mL, 21.62 mmol, 1.5 eq). The resulting effervescing mixture was stirred at room temperature under nitrogen for 1.5 hours. The reaction solution was then evaporated under reduced pressure, yielding the residue [(R)-N-carbobenzyloxyproline acid chloride] which was dissolved in anhydrous ether (50 mL). This solution was added dropwise to a stirred, preformed solution of 5-dibenzylaminoindole (9.00 g, 28.81 mmol, 2.0 eq) and ethyl magnesium bromide (3.0M in ether, 10.08 mL, 30.25 mmol, 2.1 eq) in anhydrous ether (75 mL), which had been stirring at room temperature under nitrogen for 30 minutes prior to the addition of the ethereal solution of the (R)-N-carbobenzyloxyproline acid chloride. The resulting reaction mixture was stirred at room temperature under nitrogen for 30 minutes, and then ethyl acetate (100 mL) and a saturated solution of sodium hydrogen carbonate (75 mL) were added. The organic layer was removed, and the aqueous layer was extracted with ethyl acetate (100 mL). The organic extracts were combined, dried (MgSO4), and evaporated under reduced pressure to afford a green oil. Trituration of this oil in anhydrous ether (50 mL) afforded the title compound as a white solid: mp, 176.0°-177.0° C.; LRMS (m/z, relative intensity) 543 (100, M+), 453 (10), 407 (7), 339 (40), 307 (10), 247 (10), 154 (38); [α]25 =+112° (THF, c=1.0); Anal. calcd. for C35H33N3O3 : C, 77.32; H, 6.12; N, 7.73. Found: C, 77.35; H, 6.30; N, 7.66.

reactant | 5-dibenzylaminoindole | 28.81 mmol, 9.00 g, 2.0 eq | C(C1=CC=CC=C1)N(C=1C=C2C=CNC2=CC1)CC1=CC=CC=C1 | C22H20N2
reactant | ethyl magnesium bromide | 30.25 mmol, 3.0M, 10.08 mL, 2.1 eq | C(C)[Mg]Br
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 75 mL | C(O)([O-])=O.[Na+]
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 75 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | (R)-3-(N-Benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-dibenzylamino-1H-indole | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C35H33N3O3
